* Created by KLayout
*** My special header ***

* cell inverter
* pin VDD
* pin VSS
* pin vin
* pin vout
.SUBCKT inverter VDD VSS vin vout
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$4 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$5 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 58,32 F_RR
XR$3 \$5 vout VDD F_RR R=7.14285714286 L=20u W=2.8u A=56p P=45.6u m=1
* device instance $4 r0 *1 58,45 F_RR
XR$4 \$4 vout VDD F_RR R=7.14285714286 L=20u W=2.8u A=56p P=45.6u m=1
.ENDS inverter
